US07595370B2
50 g of hexamethylcyclotrisiloxane, 35.6 g of trimethylsilyl methacrylate, 2.5 g of zinc chloride and 0.4 g of 4-methoxy phenol were dissolved in 50 ml of toluene. After 11 h at 100° C., the mixture was allowed to cool until room temperature, 40 ml of triethylamine were then added and the salts were filtered. After evaporation of the solvent, distillation under reduced pressure (0.3 mbar, 80° C.) furnished pure nonamethyl-1-methacryloyloxy-tetrasiloxane.

reactant | hexamethylcyclotrisiloxane | 50 g | C[Si]1(O[Si](O[Si](O1)(C)C)(C)C)C | C6H18O3Si3
reactant | trimethylsilyl methacrylate | 35.6 g | C(C(=C)C)(=O)O[Si](C)(C)C | C7H14O2Si
reactant | 4-methoxy phenol | 0.4 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride | 2.5 g | [Cl-].[Zn+2].[Cl-]
product | nonamethyl-1-methacryloyloxy-tetrasiloxane | C[Si](O[Si](O[Si](O[Si](OC(C(=C)C)=O)(C)C)(C)C)(C)C)(C)C | C13H32O5Si4
